US06211177B1
2-[5-Fluoro-2-(3,4,5-Trimethoxyphenyl) Benzimidazolyl]N-Benzylethanamide
A mixture of 2-[5-fluoro-2-(3,4,5-trimethoxyphenyl)benzimidazolyl]acetic acid (1.8 mmole, 650 mg) in DMA (5 ml), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl (2.7 mmole, 0.52 g) and benzylamine (2.52 mmole, 0.28 ml) is stirred at room temperature for 22 hours. The reaction mixture is added dropwise onto ice (50 g), and the precipitate is filtered off and dried in vacuo (R1=(CH2)x—C(O)—NH—(CH2)y—R5, x=1, R5=phenyl, R2=3,4,5-trimethoxy-phenyl, R3=F, n=1, y=1).

reactant | 2-[5-fluoro-2-(3,4,5-trimethoxyphenyl)benzimidazolyl]acetic acid | 1.8 mmole, 650 mg | FC1=C(C2=C(N=C(N2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1)CC(=O)O | C18H17FN2O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl | 2.7 mmole, 0.52 g | Cl.CN(CCCN=C=NCC)C
reactant | benzylamine | 2.52 mmole, 0.28 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | 2-[5-Fluoro-2-(3,4,5-Trimethoxyphenyl) Benzimidazolyl]N-Benzylethanamide | FC1=C(C2=C(N=C(N2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1)CC(=O)NCC1=CC=CC=C1 | C25H24FN3O4
